US08420655B2
To a round bottom flask is added 2-(5-bromo-1-tert-butyl-1H-benzimidazol-2-yl)-benzonitrile (1800 mg, 5.08 mmol) in MeOH (40 mL), followed by the addition of ammonium hydroxide (20 mL) and hydrogen peroxide (10 mL) (30% in water). The reaction mixture is stirred at room temperature for 3 hours. The reaction mixture is concentrated in vacuo. The residue is diluted with EtOAc, washed with water then brine, dried under Na2SO4, filtered and concentrated. The residue is loaded onto a silica gel column. The column is eluted with 0-4% MeOH/CH2Cl2. The product fractions are collected and concentrated to afford 2-(5-bromo-1-tert-butyl-1H-benzimidazol-2-yl)-benzamide (1590 mg, 84%) as a light brown solid. LCMS (ESMS): m/z 372.46, 374.35 (M++1)

reactant | 2-(5-bromo-1-tert-butyl-1H-benzimidazol-2-yl)-benzonitrile | 5.08 mmol, 1800 mg | BrC1=CC2=C(N(C(=N2)C2=C(C#N)C=CC=C2)C(C)(C)C)C=C1 | C18H16BrN3
reactant | ammonium hydroxide | 20 mL | [OH-].[NH4+]
reactant | hydrogen peroxide | 10 mL | OO | H2O2
solvent | MeOH | 40 mL | CO | CH4O
product | 2-(5-bromo-1-tert-butyl-1H-benzimidazol-2-yl)-benzamide | 1590 mg, 84% | BrC1=CC2=C(N(C(=N2)C2=C(C(=O)N)C=CC=C2)C(C)(C)C)C=C1 | C18H18BrN3O
